US05536709
Stage A: 3-Bromo-5,7-dichloro-2(1H)-quinolone
50.8 mmol of bromine are added dropwise-to a suspension containing 25.4 mmol of 5,7-dichloro-2(1H)-quinolone-3-carboxylic acid in 65 ml of pyridine at 0° C. After stirring for 10 minutes at room temperature, the whole mixture is brought to 90° C for one hour. After cooling, 300 ml of 1N hydrochloric acid are added. The expected product is obtained by filtering the precipitate, then washing the latter with 1N hydrochloric acid and with water and drying.

reactant | bromine | 50.8 mmol | BrBr | Br2
reactant | 5,7-dichloro-2(1H)-quinolone-3-carboxylic acid | 25.4 mmol | ClC1=C2C=C(C(NC2=CC(=C1)Cl)=O)C(=O)O | C10H5Cl2NO3
reactant | hydrochloric acid | 1N, 300 ml | Cl | ClH
solvent | pyridine | 65 ml | N1=CC=CC=C1 | C5H5N
product | 3-Bromo-5,7-dichloro-2(1H)-quinolone | BrC=1C(NC2=CC(=CC(=C2C1)Cl)Cl)=O | C9H4BrCl2NO
